US04629497
Preparation of 1-(N-Methyl-Methanesulfonamido)-2-Propanol
N-Methylmethanesulfonamide (21.8 grams; 0.2 mol), t-butylalcohol (50 ml) sodium hydride (0.5 grams; 50% in mineral oil), and propylene oxide (11.6 grams; 0.2 mol) were placed into a 3-necked glass reaction flask equipped with stopper, stirrer, thermometer, and reflux condenser. The mixture was heated at 50°-60° C. for three hours, cooled, and concentrated on a rotoevaporator. The concentrate was neutralized with concentrated hydrochloric acid (1 ml) and distilled under reduced pressure. Fractions 4 and 5 (13.2 grams; boiling point (140°-142° C./1.5 mm Hg) analyzed for the described product as follows:

reactant | N-Methylmethanesulfonamide | 0.2 mol, 21.8 grams | CNS(=O)(=O)C | C2H7NO2S
reactant | propylene oxide | 0.2 mol, 11.6 grams | C1C(C)O1 | C3H6O
solvent | t-butylalcohol | 50 ml, 0.5 grams | C(C)(C)(C)O | C4H10O
product | 1-(N-Methyl-Methanesulfonamido)-2-Propanol | CN(S(=O)(=O)C)CC(C)O | C5H13NO3S
